US08067459B2
Synthesis of 4-propyl-3,4-dihydro-2H-naphtho[1,2-b][1,4]oxathiepine-6,7-dione (Compound 13)
To a solution of naphthalene-1,2-dione (1.5 g, 9.5 mmol) in acetonitrile (50 mL) was added 3-mercaptohexan-1-ol (1.6 g, 11.9 mmol) followed by the addition of diisopropylethylamine (1.65 mL, 9.5 mmol). The mixture was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure and the residue dissolved in ethyl acetate (50 mL). The organic layer was washed with water (30 mL), dried with sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in acetonitrile (35 mL) and reacted with p-toluenesulfonic acid (1.9 g). The reaction mixture was stirred at room temperature for 40 min and solvent removed under reduced pressure. Crude product was purified by flash column (5% EtOAc in hexane to 15% EtOAc in hexanes) to give product as purple solid (0.170 g). M.p.=74-75° C. (decomposition); 400 MHz 1H NMR (DMSO-d6) δ: 7.88 (d, J=7.2 Hz, 1H), 7.73 (m, 2H), 7.56 (m, 1H), 5.08 (m, 1H), 4.67 (m, 1H), 3.58 (m, 1H), 1.40-1.82 (m, 6H), 0.89 (brt, 3H); LCMS: 289 [M+H].

reactant | naphthalene-1,2-dione | 9.5 mmol, 1.5 g | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
reactant | 3-mercaptohexan-1-ol | 11.9 mmol, 1.6 g | SC(CCO)CCC | C6H14OS
reactant | diisopropylethylamine | 9.5 mmol, 1.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-propyl-3,4-dihydro-2H-naphtho[1,2-b][1,4]oxathiepine-6,7-dione | 0.170 g | C(CC)C1SC2=C(OCC1)C1=CC=CC=C1C(C2=O)=O | C16H16O3S
